US07754888B2
trans-2-(6-Chloropyridin-3-yl)cyclopentanol (0.225 g, 1.14 mmol) was dissolved in CH2Cl2 (10 mL) in a 50 mL round bottomed flask, the solution cooled in an ice bath under nitrogen and treated with Et3N (0.172 g, 1.71 mmol, 0.24 mL) and methanesulfonyl chloride (0.163 g, 1.42 mmol, 0.11 ml) via syringe with stirring. After 1 h, TLC (hexanes:EtOAc/2:1) indicated complete conversion. The reaction mixture was concentrated in vacuo and then partitioned between EtOAc and 1 N HCl. The layers were separated and the organics was dried (Na2SO4), filtered and concentrated to give trans-methanesulfonic acid 2-(6-chloropyridin-3-yl)cyclopentyl ester (0.303 g, 97%) as an oil: LC/MS (ESI) m/z 275, 1H NMR (300 MHz, CDCl3) δ 8.28 (d, 1H, J=2.7 Hz), 7.56 (dd, 1H, J=8.1, 2.7 Hz), 7.3 (d, 1H, J=8.1 Hz), 4.93 (apparent q, 1H, J=5.7 Hz), 3.28 (apparent q, 1H, J=8.7 Hz), 2.86 (s, 3H), 2.26 (m, 2H), 2.10-1.80 (m, 3H), 1.73 (m, 1H).

reactant | trans-2-(6-Chloropyridin-3-yl)cyclopentanol | 1.14 mmol, 0.225 g | ClC1=CC=C(C=N1)[C@H]1[C@@H](CCC1)O | C10H12ClNO
reactant | Et3N | 1.71 mmol, 0.24 mL, 0.172 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.42 mmol, 0.11 ml, 0.163 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trans-methanesulfonic acid 2-(6-chloropyridin-3-yl)cyclopentyl ester | 0.303 g, 97% | ClC1=CC=C(C=N1)[C@H]1[C@@H](CCC1)OS(=O)(=O)C | C11H14ClNO3S
